US04435419
(-)-1-(p-Chlorophenyl)-α-methyl-3-azabicyclo[3.1.0]hexane-3-acetanilide hydrochloride
A mixture of 3.5 g. of (-)-1-(p-chlorophenyl)-3-azabicyclo[3.1.0]hexane (U.S. Pat. No. 4,131,611), 4.6 g. of 2-bromopropionanilide, 3.7 g. of sodium carbonate and 75 ml. of toluene is stirred and refluxed overnight. The mixture is diluted with 25 ml. of water and 5 ml. of 5 N sodium hydroxide and mixed. The alkaline aqueous layer is extracted with toluene. The toluene layers are combined, washed with water, dried, filtered and concentrated to an oil. The oil is triturated in 50 ml. of ether and filtered. The filtrate is acidified with 6 ml. of 3.55 N alcoholic hydrogen chloride and scratched and resuspended in ether repeatedly until crystalline. The solid is collected, washed with ether, dried, heated to solution in 25 ml. of acetonitrile, filtered and cooled, giving 1.2 g. of the desired product, m.p. 227°-228° C.

reactant | (-)-1-(p-chlorophenyl)-3-azabicyclo[3.1.0]hexane | ClC1=CC=C(C=C1)C12CNCC2C1 | C11H12ClN
reactant | 2-bromopropionanilide | BrC(C(=O)NC1=CC=CC=C1)C | C9H10BrNO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
solvent | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (-)-1-(p-Chlorophenyl)-α-methyl-3-azabicyclo[3.1.0]hexane-3-acetanilide hydrochloride | Cl.ClC1=CC=C(C=C1)C12CN(CC2C1)C(C(=O)NC1=CC=CC=C1)C | InChI=1S/C20H21ClN2O.ClH/c1-14(19(24)22-18-5-3-2-4-6-18)23-12-16-11-20(16,13-23)15-7-9-17(21)10-8-15;/h2-10,14,16H,11-13H2,1H3,(H,22,24);1H
